US05616599
2-Butyl-5-cyano-4-(1-hydroxy-1-methylpropyl)-1-tritylimidazole
5 ml of a 1M solution of methylmagnesium bromide in tetrahydrofuran were added dropwise at 10° C. under an atmosphere of nitrogen to a solution of 2 g of 2-butyl-5-cyano-4-propionyl-1-tritylimidazole (prepared as described in Preparation 15) in 36 ml of tetrahydrofuran, and the resulting mixture was stirred at 20° C. for 1 hour and subsequently at 30° C. for a further 1 hour. At the end of this time, a mixture of a saturated aqueous solution of ammonium chloride and ethyl acetate was added to the reaction mixture, which was then well shaken. The ethyl acetate layer was separated and dried over anhydrous magnesium sulfate. After the drying agent had been removed by filtration, the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel, using a 1:2 by volume mixture of ethyl acetate and hexane as the eluent, to give 1.29 g of the title compound as crystals, melting at 90°-93° C.

reactant | methylmagnesium bromide | C[Mg]Br
reactant | 2-butyl-5-cyano-4-propionyl-1-tritylimidazole | 2 g | C(CCC)C=1N(C(=C(N1)C(CC)=O)C#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N3O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
product | 2-Butyl-5-cyano-4-(1-hydroxy-1-methylpropyl)-1-tritylimidazole | 1.29 g | C(CCC)C=1N(C(=C(N1)C(CC)(C)O)C#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H33N3O
